US07385061B2
4-(1-Phenacyl-1H-benzimidazol-2-yl)-furazan-3-ylamine
Phenacylbromid (0.1 g, 0.49 mmol) is added to an efficiently stirred suspension of 4-(1H-benzimidazol-2-yl)-furazan-3-ylamine (0.1 g, 0.4 mmol) [A. V. Sergievskii, O. A. Krasnoshek, S. F. Mel'nikova, I. V. Tselinskii, Russian Journal of Organic Chemistry, 2002, 38, 915-917] and potassium carbonate (0.172 g, 1.24 mmol) in dry DMF (5 ml) at room temperature. After 4 hours the reaction mixture is diluted with ethyl acetate and the organic phase is washed repeatedly with brine. Drying of the solvent, filtering and evaporation of the solvent under reduced pressure gives the title compound in crude form. The title compound is obtained in pure form by chromatography over silicagel, m.p. 202-204° C.

reactant | Phenacylbromid | 0.49 mmol, 0.1 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 4-(1H-benzimidazol-2-yl)-furazan-3-ylamine | 0.4 mmol, 0.1 g | N1C(=NC2=C1C=CC=C2)C=2C(=NON2)N | C9H7N5O
reactant | potassium carbonate | 1.24 mmol, 0.172 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1-Phenacyl-1H-benzimidazol-2-yl)-furazan-3-ylamine | C(C(=O)C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C=2C(=NON2)N | C17H13N5O2
